US08227472B2
6,6-Dimethyl-3-[4-(4-methyl-piperazin-1-yl)-benzoylamino]-2,6-dihydro-4Hpyrrolo[3,4-c]pyrazole-5-carboxylic Acid (2-chloro-6-fluoro-phenyl)-amide (Comp 267, A1-Z-B121)
To a solution of di-tert-butyl dicarbonate (101 mg, 0.46 mmol, 1.1 eq) in DCM (2 mL) was added 2-chloro-6-fluoroaniline (61 mg, 0.42 mmol, 1 eq) and N,N-dimethylpyridin-4-amine (51 mg, 0.42 mmol, 1 eq). After 1 hour of agitation at room temperature, 6,6-Dimethyl-3-[4-(4-methyl-piperazin-1-yl)-benzoylamino]-5,6-dihydro-4Hpyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester dihydrochloride (189 mg, 0.38 mmol, 0.9 eq), triethylamine (0.23 mL, 1.68 mmol, 4 eq) and an additional 2 mL of DCM (4 mL total). The cocktail was placed in a Personal Chemistry, Smith Creator microwave reaction station and the vial contents were irradiated at 125° C. for 10 minutes with application of continuous, simultaneous cooling. After the 10 minutes of heating time had elapsed, the solution was washed twice with water. The organic phase was collected and the solvent was removed in vacuo. The residue was dissolved in methanol (3 mL), treated with triethylamine (0.3 mL, 2.2 mmol, 5 eq) and agitated for 6 hours at 50° C. After evaporation of the solvent, the solid was purified by preparative HPLC to afford 0.012 g of the title compound in 5% overall yield.

reactant | di-tert-butyl dicarbonate | 0.46 mmol, 101 mg, 1.1 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-chloro-6-fluoroaniline | 0.42 mmol, 61 mg, 1 eq | ClC1=C(N)C(=CC=C1)F | C6H5ClFN
reactant | 6,6-Dimethyl-3-[4-(4-methyl-piperazin-1-yl)-benzoylamino]-5,6-dihydro-4Hpyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester dihydrochloride | 0.38 mmol, 189 mg, 0.9 eq | Cl.Cl.C(C)OC(=O)N1N=C2C(=C1NC(C1=CC=C(C=C1)N1CCN(CC1)C)=O)CNC2(C)C
reactant | triethylamine | 1.68 mmol, 0.23 mL, 4 eq | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 2.2 mmol, 0.3 mL, 5 eq | C(C)N(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylpyridin-4-amine | 0.42 mmol, 51 mg, 1 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 6,6-Dimethyl-3-[4-(4-methyl-piperazin-1-yl)-benzoylamino]-2,6-dihydro-4Hpyrrolo[3,4-c]pyrazole-5-carboxylic Acid (2-chloro-6-fluoro-phenyl)-amide | 0.012 g | ClC1=C(C(=CC=C1)F)NC(=O)N1C(C2=NNC(=C2C1)NC(C1=CC=C(C=C1)N1CCN(CC1)C)=O)(C)C | C26H29ClFN7O2
